US09447114B2
A solution of 6-(3-chlorophenyl)-5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetra hydro-2H-pyran-2-yl)oxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (30 mg, 0.052 mmol) in 2N HCl/MeOH (5 mL) was stirred at RT for 1 h. The reaction was concentrated to a residue which was purified by Prep HPLC to give 6-(3-chlorophenyl)-5-((4-chlorophenyl) (hydroxy)methyl)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (12 mg, 46.8% yield) as a white solid. 1H NMR (DMSO-d6) δ: 7.53-7.36 (m, 3H), 7.29 (t, J=7.2 Hz, 3H), 7.19 (d, J=8.4 Hz, 2H), 6.32 (d, J=9.1 Hz, 1H), 6.14 (d, J=9.0 Hz, 1H), 4.47 (t, J=5.2 Hz, 1H), 3.92 (t, J=7.3 Hz, 2H), 3.51 (s, 3H), 3.42 (dd, J=11.6, 6.2 Hz, 2H), 1.68 (d, J=6.4 Hz, 2H). LCMS: [M+-OH] 473 and TR=3.107 min.

reactant | 6-(3-chlorophenyl)-5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetra hydro-2H-pyran-2-yl)oxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.052 mmol, 30 mg | ClC=1C=C(C=CC1)C1=C(C2=C(N(C(N(C2=O)CCCOC2OCCCC2)=O)C)S1)C(O)C1=CC=C(C=C1)Cl | C28H28Cl2N2O5S
solvent | HCl MeOH | 2N, 5 mL | Cl.CO
product | 6-(3-chlorophenyl)-5-((4-chlorophenyl) (hydroxy)methyl)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 12 mg, 46.8% yield | ClC=1C=C(C=CC1)C1=C(C2=C(N(C(N(C2=O)CCCO)=O)C)S1)C(O)C1=CC=C(C=C1)Cl | C23H20Cl2N2O4S
